US05424280
Preparation of Methyl [o-(5-fluoro-2-nitrophenoxy]phenoxy]acetate
Methyl bromoacetate (36.33 g, 0.24 mol) is added to a mixture of o-(5-fluoro-2-nitrophenoxy)phenol (39.45 g, 0.16 mol) and potassium carbonate (32.75 g, 0.24 mol) in N,N-dimethylformamide. The reaction mixture is stirred at room temperature for 18 hours, poured into water and extracted with ether. The organic extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the title product as a yellow solid (42 g) which is identified by 1HNMR spectral analysis.

reactant | Methyl bromoacetate | 0.24 mol, 36.33 g | BrCC(=O)OC | C3H5BrO2
reactant | o-(5-fluoro-2-nitrophenoxy)phenol | 0.16 mol, 39.45 g | FC=1C=CC(=C(OC2=C(C=CC=C2)O)C1)[N+](=O)[O-] | C12H8FNO4
reactant | potassium carbonate | 0.24 mol, 32.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl [o-(5-fluoro-2-nitrophenoxy]phenoxy]acetate | 42 g | FC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-] | C15H12FNO6
